US06977262B2
To a solution of ethyl 3-aminopropionate hydrochloride (19 g) in THF (600 mL) was added triethylamine (44 mL), dimethylaminopyridine (1.5 g) and di-tert-butyldicarbonate (30 g) at 0° C. and the mixture was stirred at 40° C. for four hours. The mixture was extracted with ethyl acetate and the solvent was evaporated under reduced pressure to give ethyl N-Boc-3-aminopropionate (16.7 g) as a colorless oil. To a solution of ethyl N-Boc-3-aminopropionate (5.0 g) in THF (50 mL) was added t-BuOK (2.8 g) and methyl iodide (4.9 g) at 0° C. and the mixture was stirred at room temperature for an hour. The mixture was extracted with ethyl acetate and the solvent was evaporated under reduced pressure to give ethyl 3-(N-Boc-N-methylamino)propionate (4.3 g) as a colorless oil. Subsequently, the title compound was prepared from ethyl 3-(N-Boc-N-methylamino)propionate, 2,1,3-benzoxadiazole-4-aldehyde and 3-aminopyrazole in the same manner as in Example 1001.

reactant | ethyl 3-aminopropionate hydrochloride | 19 g | Cl.NCCC(=O)OCC
reactant | triethylamine | 44 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 1.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyldicarbonate | 30 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | ethyl N-Boc-3-aminopropionate | 16.7 g | C(=O)(OC(C)(C)C)NCCC(=O)OCC | C10H19NO4
